### PR TITLE
Fix 32-bit addition assumptions

### PR DESCRIPTION
**Pull request by gio54321**
Addresses #53

The general proof technique is the same, but lifted to the integers using `zify`.
Actually, we do not even need to go back to the naturals, as we can lift both the assumptions and the goal to the integers.

### CODE REVIEW

File: Clean/Types/U32.lean [hunk 1]
```diff
@@ -142,26 +140,22 @@ expected context:
...
       rw [Nat.mod_eq_of_lt _]
-      repeat linarith [‹Fact (_ > 2 * 2^32)›.elim]))
+      repeat linarith [‹Fact (_ > 512)›.elim]))
 
-lemma value_eq {x0 x1 x2 x3: F p} (h0 : x0.val < 256) (h1 : x1.val < 256) (h2 : x2.val < 256) (h3 : x3.val < 256) :
-  (x0 + x1 * 256 + x2 * 256^2 + x3 * 256^3).val = x0.val + x1.val * 256 + x2.val * 256^2 + x3.val * 256^3 := by
-  field_to_nat_u32
+-- lemma value_eq {x0 x1 x2 x3: F p} (h0 : x0.val < 256) (h1 : x1.val < 256) (h2 : x2.val < 256) (h3 : x3.val < 256) :
+--   (x0 + x1 * 256 + x2 * 256^2 + x3 * 256^3).val = x0.val + x1.val * 256 + x2.val * 256^2 + x3.val * 256^3 := by
+--   field_to_nat_u32
```
Comment (mitschabaude) [inline Clean/Types/U32.lean]: feel free to delete this lemma

File: Clean/Types/U32.lean [hunk 2]
```diff
@@ -37,6 +37,23 @@ instance : ProvableType (F p) (u32 (p:=p)) where
     let ⟨ [x0, x1, x2, x3], _ ⟩ := v
     ⟨ x0, x1, x2, x3 ⟩
 
+omit [Fact (Nat.Prime p)] p_large_enough in
+/--
+  Extensionality pronciple for U32
```
Comment (mitschabaude) [inline Clean/Types/U32.lean]:
```suggestion
  Extensionality principle for U32
```

File: Clean/Gadgets/Addition32/Theorems.lean [hunk 3]
```diff
@@ -0,0 +1,151 @@
...
+  have x2_pos : 0 ≤ x2.val := by exact Nat.zero_le _
+  have y2_pos : 0 ≤ y2.val := by exact Nat.zero_le _
+  have x3_pos : 0 ≤ x3.val := by exact Nat.zero_le _
+  have y3_pos : 0 ≤ y3.val := by exact Nat.zero_le _
+  have z0_pos : 0 ≤ z0.val := by exact Nat.zero_le _
+  have z1_pos : 0 ≤ z1.val := by exact Nat.zero_le _
+  have z2_pos : 0 ≤ z2.val := by exact Nat.zero_le _
+  have z3_pos : 0 ≤ z3.val := by exact Nat.zero_le _
+
+  zify at *
```
Comment (mitschabaude) [inline Clean/Gadgets/Addition32/Theorems.lean:88]: nice!

**Review by mitschabaude — APPROVED** [review]

**Comment by gio54321** [comment]
Thanks for the suggestions @mitschabaude!
